### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal/Finite): prove lemmas about PartENat.card

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Prove lemmas to handle PartENat.card
Inspired from the similar lemmas for Nat.card
This is a mathlib4 companion to the PR #19198 of mathlib3

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 1]
```diff
@@ -149,4 +149,123 @@ theorem card_eq_top_of_infinite [Infinite α] : card α = ⊤ :=
...
+theorem succ_le_iff {n : ℕ} {e : PartENat} : ↑n.succ ≤ e ↔ ↑n < e := by
+  rw [coe_lt_iff, coe_le_iff]
+  apply forall_congr'; intro a; rw [Nat.succ_le_iff]
+#align part_enat.succ_le_iff PartENat.succ_le_iff
+
+/- The line
+-- obtain ⟨m, hm⟩ := cardinal.lt_aleph_0.mp h,
+extract an integer m from a cardinal c such that h : c < ℵ₀
+It may appear easier to use than the rewrites I finally use … -/
+theorem natCast_le_iff_le {n : ℕ} {c : Cardinal} : ↑n ≤ toPartENat c ↔ ↑n ≤ c := by
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Cardinal/Finite.lean:185]: This should move to `Cardinal/Basic` (and also the following lemmas). I also think it would be a lot nicer to state this as 
```lean
theorem toPartENat_le_iff_of_le_aleph0 {c c' : Cardinal} (h : c ≤ ℵ₀) : 
  toPartENat c ≤ toPartENat c' ↔ c ≤ c' := sorry
```
(you could also have a version that has hypothesis `c' ≤ ℵ₀`). Then your lemma (if you still need it) follows from this lemma and `toPartENat_cast`.

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 2]
```diff
@@ -149,4 +149,123 @@ theorem card_eq_top_of_infinite [Infinite α] : card α = ⊤ :=
...
+  | inr h =>
+    . apply iff_of_true
+      . rw [toPartENat_apply_of_aleph0_le h]
+        exact le_top
+      · apply le_trans (le_of_lt _) h
+        rw [lt_aleph0]
+        use n
+#align part_enat.coe_nat_le_iff_le PartENat.natCast_le_iff_le
+
+theorem le_natCast_iff_le {c : Cardinal} {n : ℕ} : toPartENat c ≤ n ↔ c ≤ n := by
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Cardinal/Finite.lean:200]: And this can use the other version of the previous suggestion
```suggestion
theorem toPartENat_le_iff_of_lt_aleph0 {c c' : Cardinal} (h : c' < ℵ₀) : 
  toPartENat c ≤ toPartENat c' ↔ c ≤ c' := sorry
```

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 3]
```diff
@@ -149,4 +149,123 @@ theorem card_eq_top_of_infinite [Infinite α] : card α = ⊤ :=
...
+      · rw [toPartENat_apply_of_aleph0_le h]
+        exact natCast_ne_top n
+      · apply ne_of_lt
+        apply lt_of_lt_of_le (nat_lt_aleph0 n) h
+#align part_enat.coe_nat_eq_iff_eq PartENat.natCast_eq_iff_eq
+
+theorem eq_natCast_iff_eq {c : Cardinal} {n : ℕ} : Cardinal.toPartENat c = n ↔ c = n := by
+  constructor
+  · intro h; apply symm; exact natCast_eq_iff_eq.mp h.symm
+  · intro h; apply symm; exact natCast_eq_iff_eq.mpr h.symm
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Cardinal/Finite.lean:232]:
```suggestion
  rw [eq_comm, natCast_eq_iff_eq, eq_comm]
```

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 4]
```diff
@@ -149,4 +149,123 @@ theorem card_eq_top_of_infinite [Infinite α] : card α = ⊤ :=
...
+      simp only [toNat_cast]
+  | inr h =>
+    · apply iff_of_false
+      · rw [toPartENat_apply_of_aleph0_le h]
+        simp only [top_le_iff, natCast_ne_top, not_false_iff]
+      · rw [not_le]
+        apply lt_of_lt_of_le (nat_lt_aleph0 n) h
+#align part_enat.le_coe_nat_iff_le PartENat.le_natCast_iff_le
+
+theorem natCast_eq_iff_eq {n : ℕ} {c : Cardinal} : ↑n = toPartENat c ↔ ↑n = c := by
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Cardinal/Finite.lean:214]: Could you again formulate this (first) as `toPartENat c = toPartENat c' ↔ c = c'` under suitable assumptions?

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 5]
```diff
@@ -149,4 +149,123 @@ theorem card_eq_top_of_infinite [Infinite α] : card α = ⊤ :=
...
+        apply lt_of_lt_of_le (nat_lt_aleph0 n) h
+#align part_enat.coe_nat_eq_iff_eq PartENat.natCast_eq_iff_eq
+
+theorem eq_natCast_iff_eq {c : Cardinal} {n : ℕ} : Cardinal.toPartENat c = n ↔ c = n := by
+  constructor
+  · intro h; apply symm; exact natCast_eq_iff_eq.mp h.symm
+  · intro h; apply symm; exact natCast_eq_iff_eq.mpr h.symm
+#align part_enat.eq_coe_nat_iff_eq PartENat.eq_natCast_iff_eq
+
+theorem natCast_lt_coe_iff_lt {n : ℕ} {c : Cardinal} : ↑n < toPartENat c ↔ ↑n < c := by
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Cardinal/Finite.lean:235]: similar remarks as above

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 6]
```diff
@@ -149,4 +149,123 @@ theorem card_eq_top_of_infinite [Infinite α] : card α = ⊤ :=
...
+    · rw [toPartENat_apply_of_lt_aleph0 h, coe_lt_coe, ← toNat_cast n]
+      rw [toNat_lt_iff_lt_of_lt_aleph0 (nat_lt_aleph0 n) h]
+      simp only [toNat_cast]
+  | inr h =>
+    · apply iff_of_true
+      · rw [toPartENat_apply_of_aleph0_le h]; exact natCast_lt_top n
+      · exact lt_of_lt_of_le (nat_lt_aleph0 n) h
+#align part_enat.coe_nat_lt_coe_iff_lt PartENat.natCast_lt_coe_iff_lt
+
+theorem card_eq_zero_iff_empty (α : Type _) : card α = 0 ↔ IsEmpty α := by
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Cardinal/Finite.lean:247]: If you are not planning to use the lemmas that relate `↑n` and `toPartENat c` for anything else, I think you can remove those lemmas and only keep the versions that relate `toPartENat c` and ``toPartENat c'`. You can easily adapt the proofs of the 3 lemmas below to those new lemmas.

Example:
```lean
theorem card_le_one_iff_subsingleton (α : Type _) : card α ≤ 1 ↔ Subsingleton α := by
  rw [← le_one_iff_subsingleton, ← toPartENat_le_iff_of_lt_aleph0 one_lt_aleph0]
  conv_rhs => rw [← Nat.cast_one]
  rw [toPartENat_cast, Nat.cast_one, PartENat.card]
```

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 1 above)
Comment (fpvandoorn) [reply Mathlib/SetTheory/Cardinal/Finite.lean:185]: I think you shouldn't keep your version of this (and the following) lemmas, unless you are using them again.
If you do keep them, you should rename them to something like `natCast_le_toPartENat_iff`.

**Review by fpvandoorn — COMMENTED** [review]
Thanks! I left some comments

File: Mathlib/Data/Finite/Card.lean [hunk 7]
```diff
@@ -193,6 +193,23 @@ theorem card_subtype_lt [Finite α] {p : α → Prop} {x : α} (hx : ¬p x) :
...
+
+theorem card_of_finite (α : Type _) [Finite α] : card α = Nat.card α := by
+  unfold PartENat.card
+  apply symm
+  rw [natCast_eq_iff_eq]
+  exact Finite.cast_card_eq_mk
+#align part_enat.card_of_finite PartENat.card_of_finite
+
+-- Necessary ?
+theorem card_of_fintype (α : Type _) [Fintype α] : card α = Fintype.card α := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finite/Card.lean:206]: deleted!

File: Mathlib/Data/Finite/Card.lean [hunk 8]
```diff
@@ -193,6 +193,23 @@ theorem card_subtype_lt [Finite α] {p : α → Prop} {x : α} (hx : ¬p x) :
 
 end Finite
 
+namespace PartENat
+
+theorem card_of_finite (α : Type _) [Finite α] : card α = Nat.card α := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finite/Card.lean:198]: Renamed!

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 9]
```diff
@@ -149,4 +149,123 @@ theorem card_eq_top_of_infinite [Infinite α] : card α = ⊤ :=
...
+#align part_enat.card_plift PartENat.card_pLift
+
+theorem card_image_of_injOn {α : Type u} {β : Type v} {f : α → β} {s : Set α} (h : Set.InjOn f s) :
+    card (f '' s) = card s :=
+  card_congr (Equiv.Set.imageOfInjOn f s h).symm
+#align part_enat.card_image_of_inj_on PartENat.card_image_of_injOn
+
+theorem card_image_of_injective {α : Type u} {β : Type v} (f : α → β) (s : Set α)
+    (h : Function.Injective f) : card (f '' s) = card s :=
+  card_congr (Equiv.Set.imageOfInjOn f s (Set.injOn_of_injective h s)).symm
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean:172]: Changed!

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean:232]: Changed!

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 10]
```diff
@@ -149,4 +149,123 @@ theorem card_eq_top_of_infinite [Infinite α] : card α = ⊤ :=
...
+#align part_enat.card_image_of_injective PartENat.card_image_of_injective
+
+-- Add other similar lemmas?
+theorem succ_le_iff {n : ℕ} {e : PartENat} : ↑n.succ ≤ e ↔ ↑n < e := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean:176]: Moved, renamed to `coe_succ_le_iff_lt` and added its companion `lt_coe_succ_iff_le`

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean:176]: The proof uses the preexisting `add_one_le_iff_lt` and `lt_add_one_iff_le`. 
Question : there are also direct lemmas `add_one_le_of_lt (proved before). Should I write their `coe_succ` versions?  (Just by symmetry, because `rw` suffices…)

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean:185]: I did this lemmas, and two other : `toPartENat.mono` and `toPartENat_eq_top_iff`

Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean:185]: (The version with `c' \le \aleph_0` is false.)

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean]: Done.

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean]: Done!

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/SetTheory/Cardinal/Finite.lean:208]: That one works, but I couldn't find something as neat for card_eq_zero, hence I kept all three versions.

**Comment by fpvandoorn** [comment]
LGTM

bors merge

We probably still need to update the sha after the mathlib3 PR is merged, so that port-dashboard marks that PR correctly as forward-ported.
